### PR TITLE
[Merged by Bors] - feat(RepresentationTheory/Homological): add more APIs to groupCohomology and groupHomology

### PR DESCRIPTION
**Pull request by Whysoserioushah**
This is another upstreaming PR originated from the [CFT](https://github.com/kbuzzard/ClassFieldTheory) repo, it's a collaborative work from 2025 Clay Summer School on Formalizing Class Field Theory.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean [hunk 1]
```diff
@@ -161,6 +171,25 @@ theorem map_id_comp {A B C : Rep k G} (φ : A ⟶ B) (ψ : B ⟶ C) (n : ℕ) :
       map (MonoidHom.id G) φ n ≫ map (MonoidHom.id G) ψ n := by
   rw [map, cochainsMap_id_comp, HomologicalComplex.homologyMap_comp]
 
+/-- The isomorphism between cohomology groups induced by a group isomorphism `e : G ≃* H` and a
+  isomorphism between representations (restricted by `e`). -/
```
Comment (tb65536) [inline Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean]:
```suggestion
isomorphism between representations (restricted by `e`). -/
```

Comment (tb65536) [reply Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean]: (see https://leanprover-community.github.io/contribute/style.html#comments)

File: Mathlib/RepresentationTheory/Homological/GroupHomology/Functoriality.lean [hunk 2]
```diff
@@ -177,6 +187,24 @@ theorem map_id_comp {A B C : Rep k G} (φ : A ⟶ B) (ψ : B ⟶ C) (n : ℕ) :
       map (MonoidHom.id G) φ n ≫ map (MonoidHom.id G) ψ n := by
   rw [map, chainsMap_id_comp, HomologicalComplex.homologyMap_comp]
 
+/-- The isomorphism between homology groups induced by a group isomorphism `e : G ≃* H` and a
+  isomorphism between representations (restricted by `e`). -/
```
Comment (tb65536) [inline Mathlib/RepresentationTheory/Homological/GroupHomology/Functoriality.lean]:
```suggestion
isomorphism between representations (restricted by `e`). -/
```

File: Mathlib/RepresentationTheory/Homological/GroupHomology/Functoriality.lean [hunk 3]
```diff
@@ -177,6 +187,24 @@ theorem map_id_comp {A B C : Rep k G} (φ : A ⟶ B) (ψ : B ⟶ C) (n : ℕ) :
...
+isomorphism between representations (restricted by `e`). -/
+@[simps]
+noncomputable def mapIso (e : G ≃* H) (e' : A.V ≃ₗ[k] B.V)
+    (he : ∀ g, e' ∘ₗ A.ρ g = B.ρ (e g) ∘ₗ e') (n : ℕ) :
+    groupHomology A n ≅ groupHomology B n where
+  hom := groupHomology.map (A := A) e (ofHom ⟨e', by simp [he]⟩) n
+  inv := groupHomology.map (A := B) e.symm (ofHom ⟨e'.symm, fun h ↦
+      e'.eq_comp_toLinearMap_iff _ _|>.1 <| by
+    choose g hg using e.surjective h
+    simp [LinearMap.comp_assoc, ← hg, ← he g]⟩) n
```
Comment (tb65536) [inline Mathlib/RepresentationTheory/Homological/GroupHomology/Functoriality.lean]:
```suggestion
  inv := groupHomology.map (A := B) e.symm (ofHom ⟨e'.symm, fun h ↦ by
    rw [LinearEquiv.toLinearMap_symm_comp_eq, ← LinearMap.comp_assoc]
    simp [he, LinearMap.comp_assoc]⟩) n
```

File: Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean [hunk 4]
```diff
@@ -161,6 +171,25 @@ theorem map_id_comp {A B C : Rep k G} (φ : A ⟶ B) (ψ : B ⟶ C) (n : ℕ) :
...
 
+/-- The isomorphism between cohomology groups induced by a group isomorphism `e : G ≃* H` and a
+isomorphism between representations (restricted by `e`). -/
+@[simps]
+noncomputable def mapIso (e : G ≃* H) (e' : B.V ≃ₗ[k] A.V)
+    (he : ∀ g, e' ∘ₗ B.ρ g = A.ρ (e g) ∘ₗ e') (n : ℕ) :
+    groupCohomology B n ≅ groupCohomology A n where
+  hom := groupCohomology.map e.symm (ofHom ⟨e'.toLinearMap, fun h ↦ by
+    choose g hg using e.surjective h
+    simp [e.symm_apply_eq.2 hg.symm, he, hg]⟩) n
```
Comment (tb65536) [inline Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean]:
```suggestion
  hom := groupCohomology.map e.symm (ofHom ⟨e'.toLinearMap, fun h ↦ by simp [he]⟩) n
```

File: Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean [hunk 5]
```diff
@@ -161,6 +171,25 @@ theorem map_id_comp {A B C : Rep k G} (φ : A ⟶ B) (ψ : B ⟶ C) (n : ℕ) :
...
+  inv := groupCohomology.map e (ofHom ⟨e'.symm.toLinearMap, fun g ↦
+    e'.eq_comp_toLinearMap_iff _ _|>.1 <| by
+      simp [LinearMap.comp_assoc, ← he g]⟩) n
```
Comment (tb65536) [inline Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean]:
```suggestion
  inv := groupCohomology.map e (ofHom ⟨e'.symm.toLinearMap, fun g ↦ by
    rw [e'.toLinearMap_symm_comp_eq, ← LinearMap.comp_assoc]
    simp [he, LinearMap.comp_assoc]⟩) n
```

File: Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean [hunk 6]
```diff
@@ -161,6 +171,23 @@ theorem map_id_comp {A B C : Rep k G} (φ : A ⟶ B) (ψ : B ⟶ C) (n : ℕ) :
...
   rw [map, cochainsMap_id_comp, HomologicalComplex.homologyMap_comp]
 
+/-- The isomorphism between cohomology groups induced by a group isomorphism `e : G ≃* H` and a
+isomorphism between representations (restricted by `e`). -/
+@[simps]
+noncomputable def mapIso (e : G ≃* H) (e' : B.V ≃ₗ[k] A.V)
+    (he : ∀ g, e' ∘ₗ B.ρ g = A.ρ (e g) ∘ₗ e') (n : ℕ) :
+    groupCohomology B n ≅ groupCohomology A n where
+  hom := groupCohomology.map e.symm (ofHom ⟨e'.toLinearMap, fun h ↦ by simp [he]⟩) n
+  inv := groupCohomology.map e (ofHom ⟨e'.symm.toLinearMap, fun g ↦
```
Comment (tb65536) [inline Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean]:
```suggestion
  hom := groupCohomology.map e.symm (ofHom ⟨e', fun h ↦ by simp [he]⟩) n
  inv := groupCohomology.map e (ofHom ⟨e'.symm, fun g ↦
```

File: Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean [hunk 7]
```diff
@@ -161,6 +171,23 @@ theorem map_id_comp {A B C : Rep k G} (φ : A ⟶ B) (ψ : B ⟶ C) (n : ℕ) :
...
   rw [map, cochainsMap_id_comp, HomologicalComplex.homologyMap_comp]
 
+/-- The isomorphism between cohomology groups induced by a group isomorphism `e : G ≃* H` and a
+isomorphism between representations (restricted by `e`). -/
+@[simps]
+noncomputable def mapIso (e : G ≃* H) (e' : B.V ≃ₗ[k] A.V)
+    (he : ∀ g, e' ∘ₗ B.ρ g = A.ρ (e g) ∘ₗ e') (n : ℕ) :
+    groupCohomology B n ≅ groupCohomology A n where
+  hom := groupCohomology.map e.symm (ofHom ⟨e'.toLinearMap, fun h ↦ by simp [he]⟩) n
+  inv := groupCohomology.map e (ofHom ⟨e'.symm.toLinearMap, fun g ↦ by
```
Comment (tb65536) [inline Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean]:
```suggestion
  hom := groupCohomology.map e.symm (ofHom ⟨e', fun h ↦ by simp [he]⟩) n
  inv := groupCohomology.map e (ofHom ⟨e'.symm, fun g ↦ by
```

File: Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean [hunk 8]
```diff
@@ -161,6 +171,23 @@ theorem map_id_comp {A B C : Rep k G} (φ : A ⟶ B) (ψ : B ⟶ C) (n : ℕ) :
...
+    rw [e'.toLinearMap_symm_comp_eq, ← LinearMap.comp_assoc]
+    simp [he, LinearMap.comp_assoc]⟩) n
+  hom_inv_id := by
+    rw [← groupCohomology.map_comp, ← groupCohomology.map_id]
+    refine map_congr (by simp) (by simp [res_id]) n
```
Comment (tb65536) [inline Mathlib/RepresentationTheory/Homological/GroupCohomology/Functoriality.lean]:
```suggestion
    exact map_congr (by simp) (by simp [res_id]) n
```

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
